data/pmechdb/original/mc_train_fold0/raw/train.txt
C[C:20](=[OH+:21])C.C[C:11](=[CH2:10])[OH:12]>>C[C:11](=[OH+:12])[CH2:10][C:20](C)(C)[OH:21] 10,11=10,20;20,21=21;12=11
CCOC(=O)[N:20]=[N:21]C(=O)OCC.CC1=C(C=CC=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O>>CCOC(=O)[N-:21][N:20](C(=O)OCC)[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=C(C=CC=C3)C.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O 10=20;20,21=21
CC(C)O[Al:20](OC1CC2C3(CCCC(C3C(C24CC1C(=C)C4)C(=O)OC)(C)C(=O)OC)C)OC(C)C.[OH2:10].CC(C)O.CC(=O)C>>CC(C)O[Al-:20]([OH2+:10])(OC1CC2C3(CCCC(C3C(C24CC1C(=C)C4)C(=O)OC)(C)C(=O)OC)C)OC(C)C.CC(C)O.CC(=O)C 10=20,
[H:20][C:21]1(C=CC(=C[C+:22]1OC)[N+](=O)[O-])C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[C:22](C=C(C=C1)[N+](=O)[O-])OC 10=20;20,21=21,22
CC1=CC=C(C=C1)C(=O)[CH:10]([Si-:11](C)(C)(C)O[Si](C)(C)C)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>CC1=CC=C(C=C1)C(=O)[CH:10]=[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C[Si:11](C)(C)O[Si](C)(C)C 10,11=10,20
CC[O-:10].C[C:20](=[O:21])OC>>CC[O:10][C:20](C)([O-:21])OC 10=20;20,21=21
[H:20][NH+:21]=COC.[OH2:10]>>[H:20][OH2+:10].COC=[NH:21] 10=20;20,21=21
CN(C)C(O[P:10](Cl)(Cl)(Cl)[Cl:11])Cl.B(F)(F)F.CCOCC.C1=CC(=CC=C1CC(=O)C2=C(C=C(C=C2O)O)O)O>>CN(C)C(O[P+:10](Cl)(Cl)Cl)Cl.[Cl-:11].B(F)(F)F.CCOCC.C1=CC(=CC=C1CC(=O)C2=C(C=C(C=C2O)O)O)O 10,11=11
[CH:20](=[NH2+:21])O.[Br-:10]>>[CH:20]([NH2:21])(O)[Br:10] 10=20;20,21=21
COC1=C(C2=C(CC3C4C2(CCN3C5=CC=CC=C5)[CH:11]=[C:10]([CH+:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C(C2=C(CC3C4C2(CCN3C5=CC=CC=C5)[CH+:11][C:10](=[CH:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10,11=10,20
C[CH:20]1[N:10](CCC[OH+:21]1)C>>C[CH:20]=[N+:10](C)CCC[OH:21] 10=20;20,21=21
CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C:21](SC(=C3C)CCO)[C:20](C4=CC=C(C=C4)F)(C(CC(=O)C5=CC=CC=C5)C6=CC=CS6)[O-:10])CCO.CC[NH+](CC)CC.CCO.[Br-]>>CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C-:21]SC(=C3C)CCO)CCO.C1=CC=C(C=C1)C(=O)CC(C2=CC=CS2)[C:20](=[O:10])C3=CC=C(C=C3)F.CC[NH+](CC)CC.CCO.[Br-] 10=20;20,21=21
[H:20][O+:21]=C1CC(C1C2=CC=CC=C2)CCCC.[B-]([OH:10])(F)(F)F>>[H:20][OH+:10][B-](F)(F)F.CCCCC1CC(=[O:21])C1C2=CC=CC=C2 10=20;20,21=21
[Li][O:10]C(C)C=CC1=CC=CC=C1.CCCC[Al:20](CC(C)C)CC(C)C>>[Li][O+:10](C(C)C=CC1=CC=CC=C1)[Al-:20](CCCC)(CC(C)C)CC(C)C 10=20,
CC1CCC2=C[C:20](=[O:21])[CH:10](CC12CCC#C)[Si-:11](C)(C)(C)O.CO.O[K]>>CC1CCC2=C[C:20](=[CH:10]CC12CCC#C)[O-:21].C[Si:11](C)(C)O.CO.O[K] 10,11=10,20;20,21=21
CC[OH:10].CC[O+:21]=[C:20](CN)C1=CN=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-]>>CC[OH+:10][C:20](CN)(C1=CN=CC=C1)[O:21]CC.CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-] 10=20;20,21=21
[CH:11]1=[CH:10]OC=C1C#N.[Br:20][Br:21]>>C1=C([CH+:11][CH:10](O1)[Br:20])C#N.[Br-:21] 10,11=10,20;20,21=21
[H:20][O:21][C:22]1=[NH+:23]C2=CC=CC=C2C(C1)CC.[OH2:10]>>[H:20][OH2+:10].CCC1C[C:22](=[O:21])[NH:23]C2=CC=CC=C12 10=20;20,21=21,22;22,23=23
CC(C)O[Al:20](OC(C)C)OC(C)C.C1CCC2(C(C1)[O:10]2)C3(CCCC3)O>>CC(C)O[Al-:20](OC(C)C)(OC(C)C)[O+:10]1C2C1(CCCC2)C3(CCCC3)O 10=20,
[H:10][AlH3-:11].C[CH:20]=[N:21]C>>[H:10][CH:20](C)[N-:21]C.[AlH3:11] 10,11=10,20;20,21=21
CCO[C:11](=[CH2:10])[O-:12].C1=CC=C(C=C1)[CH:20]=[O:21]>>CCO[C:11](=[O:12])[CH2:10][CH:20](C1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21;12=11
CC(C(=O)NC)NC(=O)[O:21][CH2:20][C-:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1>>CC(C(=O)NC)NC(=O)[O-:21].[CH2:20]=[C:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1 10=20;20,21=21
C1CC([NH+:21](C1)[CH:20](C2=CC=C(C=C2)[N+](=O)[O-])[O-:10])C3=NN=NN3.CCCCC(=O)C1=C(C=CC(=C1)Br)O.C(=O)(C(F)(F)F)O>>C1CC([NH:21]C1)C2=NN=NN2.C1=CC(=CC=C1[CH:20]=[O:10])[N+](=O)[O-].CCCCC(=O)C1=C(C=CC(=C1)Br)O.C(=O)(C(F)(F)F)O 10=20;20,21=21
[H:20][CH:21]1CCCC[C:22]1(C(=C)C)[O:23]S(=O)(=O)C2=CC=C(C=C2)C.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:23].CC(=C)[C:22]1=[CH:21]CCCC1 10=20;22,23=23;20,21=21,22
C[O:21][CH:20](C1=CC=CC=C1)[O-:10]>>C[O-:21].C1=CC=C(C=C1)[CH:20]=[O:10] 10=20;20,21=21
CC(=O)[O:21][C:20](C)(N)[O-:10]>>C[C:20](=[O:10])N.CC(=O)[O-:21] 10=20;20,21=21
CCCCO[C:20](C1=CC=C(C=C1)[N+](=O)[O-])([OH2+:21])[OH:10].CCCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCCCO[C:20](=[OH+:10])C1=CC=C(C=C1)[N+](=O)[O-].[OH2:21].CCCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][N+:21](=C1CC2CCC1(C2(C)C)C(=O)OCC)CC3=CC=CC=C3.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>[H:20][N+:10]1=CC=CC=C1.CCOC(=O)C12CCC(C1(C)C)CC2=[N:21]CC3=CC=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CCC2(C(C1)CCCN2)[OH:10]>>[H:20][OH+:10]C12CCCCC1CCCN2.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC(=[N+]1CCCC1)C[C:20](C=C)([O-:10])[O:21]C(=O)C>>CC(=[N+]1CCCC1)C[C:20](=[O:10])C=C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]=C1CCCCC1.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C1CCC(=[O:21])CC1 10=20;20,21=21
C[As+](C)(C)[CH-:10][CH2:20][NH3+:21]>>C[As+](C)(C)[CH:10]=[CH2:20].[NH3:21] 10=20;20,21=21
CCCCCC1[CH:11]=[CH:10]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCCCCC1[CH+:11][CH:10]2[CH2:20]CC1C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
